US08426411B2
HCl gas was bubbled through a solution of 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylic acid (7.29 g, 42.3 mmol) in EtOH (60 mL) at about 25° C. for about 10 min. The reaction mixture was stirred at about 25° C. for about 72 h. The solvent was removed under reduced pressure. The crude residue was partitioned between water (30 mL) and DCM (3×30 mL). The combined organic extracts were concd under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 0-100% EtOAc/heptane to give ethyl 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylate (4.89 g, 58%) as a yellow oil: 1H NMR (CDCl3) δ 4.23-4.02 (m, 2H), 3.74-3.47 (m, 2H), 2.96-2.83 (m, 1H), 2.31-2.17 (m, 1H), 2.15-1.98 (m, 2H), 1.97-1.84 (m, 1H), 1.79-1.66 (m, 1H), 1.65-1.50 (m, 1H), 1.49-1.37 (m, 1H), 1.30-1.21 (m, 5H), 1.04-0.82 (m, 3H).

reactant | HCl | Cl | ClH
reactant | 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylic acid | 42.3 mmol, 7.29 g | C(C)C1C(CC(C1)CO)C(=O)O | C9H16O3
reactant | EtOH | 60 mL | CCO | C2H6O
product | ethyl 2-ethyl-4-(hydroxymethyl)cyclopentanecarboxylate | 4.89 g, 58% | C(C)C1C(CC(C1)CO)C(=O)OCC | C11H20O3
